US05306816
To a solution of allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (66 mg) in dichloromethane (1 ml) cooled to 0° C. was added meta-chloroperbenzoic acid (27.7 mg). The mixture was stirred for 10 minutes at the same temperature, washed with aqueous sodium bicarbonate solution and dried. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography to give allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (64 mg).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 66 mg | C(C)(C)(C)[Si](O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C)(C)C | C20H33NO4SSi
reactant | meta-chloroperbenzoic acid | 27.7 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 64 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S(=O)C)C | C20H33NO5SSi
